US06245790B1
A dimethylformamide (8 ml) - MeOH (4 ml) solution of 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}-phenyl trifluoromethanesulfonate (2.24 g), Palladium(II) acetate (64 mg), 1,3-bis(diphenylphosphino)propane (106 mg) and triethylamine (1.2 ml) was saturated with CO gas. The solution was stirred for 14 hours at 70° C. under CO atmosphere. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was washed with 1N hydrochloric acid, water and brine. After dried over MgSO4, the organic solvent was evaporated in vacuo. The residue was purified by silica gel chromatography to afford methyl 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}benzoate (1.17 g).

reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | MeOH | 4 ml | CO | CH4O
reactant | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}-phenyl trifluoromethanesulfonate | 2.24 g | FC(S(=O)(=O)OC1=CC(=CC=C1)CC1C(=CCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C28H22F3NO4S
reactant | 1,3-bis(diphenylphosphino)propane | 106 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
catalyst | Palladium(II) acetate | 64 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
product | methyl 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl}benzoate | 1.17 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(C(=O)OC)C=CC1 | C29H25NO3
